US04299845
Preparation of N,N'-BIS-(3-TRIFLUOROMETHYL-4-NITROPHENYL)DIGLYCOLAMIDE
Reflux a mixture of 11.97 g (0.07 mole) of diglycolic acid dichloride and 28.84 g (0.14 mole) of 3-trifluoromethyl-4-nitroaniline in 250 ml of benzene for 1 hour. Isolate the solid product of this example by filtration and obtain analytically pure material by recrystallization from benzene-methanol followed by crystallizatin from pure methanol, mp 137°-138° C.

reactant | diglycolic acid dichloride | 0.07 mole, 11.97 g | C(COCC(=O)Cl)(=O)Cl | C4H4Cl2O3
reactant | 3-trifluoromethyl-4-nitroaniline | 0.14 mole, 28.84 g | FC(C=1C=C(N)C=CC1[N+](=O)[O-])(F)F | C7H5F3N2O2
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | N,N'-BIS-(3-TRIFLUOROMETHYL-4-NITROPHENYL)DIGLYCOLAMIDE | FC(C=1C=C(C=CC1[N+](=O)[O-])NC(COCC(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O)(F)F | C18H12F6N4O7
